US06869954B2
1) Preparation of 2-cyclopropylmethyl-4-[3-(4-tert-butoxycarbonyl-1-piperazinyl)propyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 76.9%).

reactant | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)CCCOS(=O)(=O)C)C1=CC(=C(C=C1)OC)F | C19H23FN2O5S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 2-cyclopropylmethyl-4-[3-(4-tert-butoxycarbonyl-1-piperazinyl)propyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 76.9% | C1(CC1)CN1N=C(C=C(C1=O)CCCN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)OC)F | C27H37FN4O4
